### PR TITLE
[Merged by Bors] - feat(Data/Nat/Factorization/PrimePow): add Nat.nontrivial_primeFactors_of_two_le_of_not_isPrimePow

### PR DESCRIPTION
**Pull request by metakunt**

### CODE REVIEW

File: Mathlib/Data/Nat/Factorization/PrimePow.lean [hunk 1]
```diff
@@ -57,6 +57,17 @@ theorem isPrimePow_iff_card_primeFactors_eq_one {n : ℕ} :
...
+theorem Nat.primeFactors_nontrivial_of_two_le_of_not_isPrimePow {n : ℕ} (hn : 2 ≤ n)
+    (ha : ¬ IsPrimePow n) : (Nat.primeFactors n).Nontrivial := by
+  rw [isPrimePow_iff_card_primeFactors_eq_one] at ha
+  rw [← Finset.one_lt_card_iff_nontrivial]
+  contrapose! ha
+  have he : (n.primeFactors).card ≠ 0 := by
+    intro hcon
+    simp only [Finset.card_eq_zero, primeFactors_eq_empty] at hcon
+    grind
+  grind
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/PrimePow.lean]: Looks like this can be:
```suggestion
  grind [Finset.card_eq_zero, primeFactors_eq_empty]
```

File: Mathlib/Data/Nat/Factorization/PrimePow.lean [hunk 2]
```diff
@@ -57,6 +57,17 @@ theorem isPrimePow_iff_card_primeFactors_eq_one {n : ℕ} :
   simp_rw [isPrimePow_iff_factorization_eq_single, ← Nat.support_factorization,
     Finsupp.card_support_eq_one', pos_iff_ne_zero]
 
+theorem Nat.primeFactors_nontrivial_of_two_le_of_not_isPrimePow {n : ℕ} (hn : 2 ≤ n)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/PrimePow.lean]:
```suggestion
theorem Nat.nontrivial_primeFactors_of_two_le_of_not_isPrimePow {n : ℕ} (hn : 2 ≤ n)
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

+awaiting-author

**Review by joneugster — APPROVED** [review]
I'm afraid I don't know the answer about grind-annotations. My intuition would say yes, but I haven't used grind much yet.

Anyways the PR looks good to me and seems to already been approved once by @Ruben-VandeVelde.

maintainer merge

File: Mathlib/Data/Nat/Factorization/PrimePow.lean [hunk 3]
```diff
@@ -57,6 +57,12 @@ theorem isPrimePow_iff_card_primeFactors_eq_one {n : ℕ} :
   simp_rw [isPrimePow_iff_factorization_eq_single, ← Nat.support_factorization,
     Finsupp.card_support_eq_one', pos_iff_ne_zero]
 
+theorem Nat.nontrivial_primeFactors_of_two_le_of_not_isPrimePow {n : ℕ} (hn : 2 ≤ n)
+    (ha : ¬ IsPrimePow n) : (Nat.primeFactors n).Nontrivial := by
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Factorization/PrimePow.lean]: The converse is also true... Could you add that to this PR?

File: Mathlib/Data/Nat/Factorization/PrimePow.lean [hunk 4]
```diff
@@ -57,6 +57,11 @@ theorem isPrimePow_iff_card_primeFactors_eq_one {n : ℕ} :
   simp_rw [isPrimePow_iff_factorization_eq_single, ← Nat.support_factorization,
     Finsupp.card_support_eq_one', pos_iff_ne_zero]
 
+theorem Nat.not_isPrimePow_iff_nontrivial_of_two_le {n : ℕ} (hn : 2 ≤ n) :
+    ¬ IsPrimePow n ↔ (Nat.primeFactors n).Nontrivial := by
+  rw [isPrimePow_iff_card_primeFactors_eq_one, ← Finset.one_lt_card_iff_nontrivial]
+  grind [Finset.card_eq_zero, primeFactors_eq_empty]
```
Comment (ocfnash) [inline Mathlib/Data/Nat/Factorization/PrimePow.lean]:
```suggestion
    ¬ IsPrimePow n ↔ n.primeFactors.Nontrivial := by
  rw [isPrimePow_iff_card_primeFactors_eq_one, ← Finset.one_lt_card_iff_nontrivial]
  grind [primeFactors_eq_empty]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Data/Nat/Factorization/PrimePow.lean (hunk 3 above)
Comment (metakunt) [reply Mathlib/Data/Nat/Factorization/PrimePow.lean]: Done.
